Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.74476365877
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.53296298504
[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-6.148745999380001
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],4.1374016010500005
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],6.60925919
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]=[C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],4.05057607206
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]1[C:3](=[C:4][H:5])[C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],1.2138893821
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],8.77368043
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]1[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](=[C:3][H:4])[C:9](=[C:8]=[C:5]([H:6])[H:7])[C:10]([H:11])([H:12])[H:13],1.1667893764
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.96860590706
[C:3]([H:4])#[C:5][O:8][O:9][H:10].[H:1][C:2]#[C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[O:8][O:9][H:10],0.617996592472
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2],6.47954257503
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14].[H:4],1.99758404671
[H:1][O:2][C:3]#[C:4][C:7]([H:8])([H:9])[H:10].[O:5][H:6]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.23103703956
[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-2.04846471163
[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-3.45549387066
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],1.1795039227600002
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12],-4.76446513966
[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:8].[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7],2.61808435039
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1],4.1335740791000015
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([O:8])([H:9])[H:10]>>[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7](=[O:8])([H:9])[H:10],-0.779281475681
[H:1][C:2]#[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.01804871997
[C:3][H:4].[H:1][C:2][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-8.7050467499
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[H:7].[H:1][C:2][C:3]#[C:4][C:8]([H:9])([H:10])[H:11],7.817964331880001
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])[H:8],3.91948078456
[O:1][C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1],4.17033052801
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:5][H:6].[O:1]=[C:2]([H:3])[C:4][C:7]([H:8])([H:9])[O:10][H:11],8.18219136237
[H:1].[O:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.49388068645
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],5.20271201117
